US04898941
Into 40 ml of 20% aqueous solution of sulfuric acid was dissolved 20 g of N,N-dimethylaniline. To the solution were added 8.4 g of pyruvic acid and 0.2 g of p-toluenesulfonic acid and the mixture was heated with reflux for 24 hours. The reaction mixture was, after cooled, diluted with 200 ml of water and adjusted to pH 6 with addition of 20% aqueous solution of sodium hydroxide. The precipitated crystal was collected by filtration which was 18.0 g (yield 70%) of 2,2-bis(4-dimethylaminophenyl)propionic acid, having a melting point of 152°~154° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N,N-dimethylaniline | 20 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | pyruvic acid | 8.4 g | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
catalyst | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2,2-bis(4-dimethylaminophenyl)propionic acid | 18.0 g, yield 70% | CN(C1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)N(C)C)C | C19H24N2O2
